US05741798
A mixture of 800 mg (4.9 mmol) homophthalic anhydride, 680 mg (5.4 mmol) 2-fluorobenzylamine and 500 mg 4 Å molecular sieves in 1.5 mL toluene was stirred and heated at reflux overnight. A solution of 30% MeOH in CH2Cl2 was added, the resulting hot mixture filtered and the tiltrate concentrated to give 900 mg 2-(2-fluorobenzyl)-4H-isoquinoline-1,3-dione, mp 140°-144° C. A 500 mg (1.86 mmol) portion of this product was combined with 570 mg (3.71 mmol) DBU in 5 mL CH2Cl2 under argon, and cooled to -10° C. Isopropylsulfonyl chloride (290 mg, 2.04 mmol) was added, and after stirring 15 min the reaction was allowed to warm to room temperature. After 4 hr the reaction was diluted with EtOAc and worked up as in Example 1 giving 329 mg of the title compound, mp 174°-181° C.

reactant | homophthalic anhydride | 4.9 mmol, 800 mg | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
reactant | 2-fluorobenzylamine | 5.4 mmol, 680 mg | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | MeOH | CO | CH4O
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(2-fluorobenzyl)-4H-isoquinoline-1,3-dione | 900 mg | FC1=C(CN2C(C3=CC=CC=C3CC2=O)=O)C=CC=C1 | C16H12FNO2
